US07851463B2
143.2 N-(3-Piperidin-3-yl-phenyl)-4-trifluoromethoxy-benzenesulfonamide
3-[3-(4-Trifluoromethoxy-benzenesulfonylamino)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (340 mg, 0.66 mmol) was dissolved in dichloromethane (30 ml). Trifluoroacetic acid (2 ml) was added and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was evaporated to dryness. Aqueous NaHCO3 solution (10 ml) was added and extracted twice with ethyl acetate (25 ml). The combined organic phases were dried over magnesium sulfate, filtered, and evaporated to dryness to yield the pure product (250 mg, 95% yield).

reactant | 3-[3-(4-Trifluoromethoxy-benzenesulfonylamino)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.66 mmol, 340 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC(=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C23H27F3N2O5S
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(3-Piperidin-3-yl-phenyl)-4-trifluoromethoxy-benzenesulfonamide | 250 mg, 95% yield | N1CC(CCC1)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C18H19F3N2O3S
